US08541457B2
Synthesis of 2-Benzylamino-4-methylthiazole-5-carboxylic Acid Benzylamide
A mixture of 2-amino-4-methylthiazole-5-carboxylic acid benzylamide (0.20 g, 0.81 mmol), benzaldehyde (0.086 g, 0.81 mmol) and titanium(IV) isopropoxide (0.29 g, 1.01 mmol) in anhydrous tetrahydrofuran (2 mL) was stirred at ambient temperature for 18 h. Sodium cyanoborohydride (0.036 g, 0.57 mmol) was added to the mixture and stirring was continued at ambient temperature for another 6 h. The reaction was quenched with the addition of water (2 mL). The precipitate obtained was filtered and washed with ethanol. The filtrate was concentrated in vacuo. The residue was purified by column chromatography to obtain the title compound as a white solid in 58% yield (0.16 g); m.p. 169-172° C.; 1H NMR (CDCl3, 300 MHz) δ 7.37-7.23 (m, 10H), 6.02 (s, 1H), 5.69 (s, 1H), 4.54 (d, J=5.6 Hz, 2H), 4.43 (s, 2H), 2.49 (s, 3H); MS (ES+) m/z 338.3 (M+1).

reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | 0.81 mmol, 0.20 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
reactant | benzaldehyde | 0.81 mmol, 0.086 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | Sodium cyanoborohydride | 0.57 mmol, 0.036 g | C(#N)[BH3-].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | titanium(IV) isopropoxide | 1.01 mmol, 0.29 g | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 2-Benzylamino-4-methylthiazole-5-carboxylic Acid Benzylamide | 58% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NCC1=CC=CC=C1)C | C19H19N3OS
